**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Flyback Transformer for LT3751
* Matchcode:              WE-FB 3751
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************

.subckt	750032051		7  4  6  5  1  10		
.param RxLkg=559.02ohm					
.param Leakage=0.05uh					
Rlkg	7	7a	{RxLkg/2}		
L_Lkg	7	7a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	6	6a	{RxLkg/2}		
L_Lkg2	6	6a	{Leakage/2}	Rser=0.01mohm	
Lpri1	7a	4	2.475uH	Rser=30mohm	
Lpri2	6a	5	2.475uH	Rser=30mohm	
Lsec1	1	10	250uH	Rser=700mohm	
K Lpri1 Lpri2   Lsec1        1					
.param Cprm1=4pf					
.param Cprm2=4pf					
.param Rdmp1=27950.84ohm					
.param Rdmp2=27950.84ohm					
Cpri1	7	4	{Cprm1}	Rser=10mohm	
Cpri2	6	5	{Cprm2}	Rser=10mohm	
Rdmp1	7	4	{Rdmp1}		
Rdmp2	6	5	{Rdmp2}		
Rg3	7	0	20meg		
Rg4	6	0	20meg		
Rg7	4	0	20meg		
Rg8	5	0	20meg		
Rg11	1	0	20meg		
Rg19	10	0	20meg		
.ends	

.subckt	750032052		6  4  1  10		
.param RxLkg=1377.84ohm					
.param Leakage=0.27uh					
Rlkg	6	6a	{RxLkg}		
L_Lkg	6	6a	{Leakage}	Rser=0.01mohm	
Lpri1	6a	4	9.73uH	Rser=20mohm	
Lsec1	1	10	1000uH	Rser=1060mohm	
K Lpri1    Lsec1        1					
.param Cprm1=9.6pf					
.param Rdmp1=51031.03ohm					
Cpri1	6	4	{Cprm1}	Rser=10mohm	
Rdmp1	6	4	{Rdmp1}		
Rg3	6	0	20meg		
Rg7	4	0	20meg		
Rg11	1	0	20meg		
Rg19	10	0	20meg		
.ends									

.subckt	750310349		5  8  1  13  3		
.param RxLkg=48.82ohm					
.param Leakage=0.09uh					
Rlkg	5	5a	{RxLkg}		
L_Lkg	5	5a	{Leakage}	Rser=0.01mohm	
Lpri1	5a	8	4.91uH	Rser=9mohm	
Lsec1	1	13	125uH	Rser=250mohm	
Lsec2	13	3	125uH	Rser=250mohm	
K Lpri1    Lsec1 Lsec2       1					
.param Cprm1=1699.3pf					
.param Rdmp1=2712.2ohm					
Cpri1	5	8	{Cprm1}	Rser=10mohm	
Rdmp1	5	8	{Rdmp1}		
Rg3	5	0	20meg		
Rg7	8	0	20meg		
Rg11	1	0	20meg		
Rg19	13	0	20meg		
Rg20	3	0	20meg		
.ends					

.subckt	750310355		4  8  1  13  3		
.param RxLkg=84.22ohm					
.param Leakage=0.1uh					
Rlkg	4	4a	{RxLkg}		
L_Lkg	4	4a	{Leakage}	Rser=0.01mohm	
Lpri1	4a	8	2.4uH	Rser=4.5mohm	
Lsec1	1	13	62.5uH	Rser=125mohm	
Lsec2	13	3	62.5uH	Rser=125mohm	
K Lpri1    Lsec1 Lsec2       1					
.param Cprm1=1410pf					
.param Rdmp1=2105.39ohm					
Cpri1	4	8	{Cprm1}	Rser=10mohm	
Rdmp1	4	8	{Rdmp1}		
Rg3	4	0	20meg		
Rg7	8	0	20meg		
Rg11	1	0	20meg		
Rg19	13	0	20meg		
Rg20	3	0	20meg		
.ends					
